US07659264B2
Step F. 1H-Spiro[1,8-naphthyridine-4,4′-piperidin]-2(3H)-one
To a mixture of benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate (384 mg, 0.800 mmol) in dichloromethane (10 mL) was added trifluoroacetic acid (10 mL). After 3 h, the reaction was concentrated, diluted with dichloromethane (10 mL) and ethylenediamine (720 mg, 12.0 mmol) was added. After 18 h, the reaction was concentrated, the residue partitioned between saturated aqueous NaHCO3 and dichloromethane, and the layers separated. The aqueous phase was extracted with further portions of dichloromethane (2×), the organic layers combined, dried, and concentrated. 10% Palladium on carbon (300 mg) was added to a solution of this material in EtOH (10 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 24 h, the mixture was filtered though celite and concentrated to give the title compound (130 mg). MS 218.1 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.14 (dd, J=1.6, 5.0 Hz, 1H), 7.80 (dd, J=1.6, 7.7 Hz, 1H), 7.10 (dd, J=5.0, 7.7 Hz, 1H), 2.98-2.95 (m, 4H), 2.78 (s, 2H), 1.96-1.90 (m, 2H), 1.69 (brd, J=11.5 Hz, 2H).

reactant | benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | 0.800 mmol, 384 mg | O=C1N(C2=NC=CC=C2C2(CCN(C=C2)C(=O)OCC2=CC=CC=C2)C1)COCC[Si](C)(C)C | C26H33N3O4Si
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethylenediamine | 12.0 mmol, 720 mg | C(CN)N | C2H8N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1H-Spiro[1,8-naphthyridine-4,4′-piperidin]-2(3H)-one | 130 mg | N1CCC2(CC1)CC(NC1=NC=CC=C12)=O | C12H15N3O
